US03975443
1-Cyano-N,N-dimethyl cyclohexylamine (10 g.) was added portionwise to conc. sulphuric acid (20 ml.) and the solution left for 15 minutes. The cooled solution was diluted with ice-cold water and neutralised with barium hydroxide octahydrate. The mixture was filtered on hyflo and the filtrate evaporated to dryness when the residual oil (9.1 g., 81%) crystallised on standing. Recrystallisation from petrol (80/100) afforded 1-dimethylamino cyclohexane carboxamide m.p. 65°-69°.

reactant | 1-Cyano-N,N-dimethyl cyclohexylamine | 10 g | C(#N)C1(CCCCC1)N(C)C | C9H16N2
reactant | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | barium hydroxide octahydrate | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
product | 1-dimethylamino cyclohexane carboxamide | CN(C1(CCCCC1)C(=O)N)C | C9H18N2O
